US05026712
5,6-Dihydro-3-methyl-8-(4-methylphenyl)imidazo[1,5-a]-pyridine
Combine 50 g (0.25 mol) of 4-chloro-4'-methylbutyrophenone with 124 g (1.5 mol) of 2-methylimidazole and heat to 175° C. for 70 hr. Crystallize from ether to provide the title compound.

reactant | 4-chloro-4'-methylbutyrophenone | 0.25 mol, 50 g | ClCCCC(=O)C1=CC=C(C=C1)C | C11H13ClO
reactant | 2-methylimidazole | 1.5 mol, 124 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-3-methyl-8-(4-methylphenyl)imidazo[1,5-a]-pyridine | CC1=NC=C2N1CCC=C2C2=CC=C(C=C2)C | C15H16N2
